US05192785
2-(3-Chlorophenoxy)ethanol
A mixture of 51.4 g (0.4 mole) of 3-chlorophenol (Aldrich Chem. Co.), 34.7 g (0.43 mole) of 2-chloroethanol (Aldrich) and 16.1 g (0.4 mole) of sodium hydroxide pellets in 500 ml of 95% ethanol was stirred and heated at reflux for 16 hr. The mixture was filtered and the filtrate was evaporated under reduced pressure to yield a semisolid residue. The residue was partitioned between methylene chloride and a 15% sodium hydroxide solution (300 ml of each). The organic layer was washed with two 300 ml portions of water, dried over magnesium sulfate and the solvent was evaporated under reduced pressure to give 34.2 g (50%) of the title compound as a viscous oil.

reactant | 3-chlorophenol | 0.4 mole, 51.4 g | ClC=1C=C(C=CC1)O | C6H5ClO
reactant | 2-chloroethanol | 0.43 mole, 34.7 g | ClCCO | C2H5ClO
reactant | sodium hydroxide | 0.4 mole, 16.1 g | [OH-].[Na+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 2-(3-Chlorophenoxy)ethanol | 34.2 g, 50% | ClC=1C=C(OCCO)C=CC1 | C8H9ClO2
